US07504403B2
2-{2-[2-(3-Hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-ylamino}-3-methyl-6-phenyl-3H-pyrimidin-4-one.
A mixture of [3-(2-amino-propyl) -phenyl]-methanol (300 mg, 1.8 mmol) and 2-(2-methanesulfinyl-pyrimidin-4-ylamino) -3-methyl-6-phenyl-3H-pyrimidin-4-one (300 mg, 0.9 mmol) in NMP (8 mL) was heated to 100° C. for 16 h. The reaction was cooled to room temperature and EtOAc was added. The mixture was then washed with H2O three times, brine once, dried (MgSO4), filtered, concentrated under vacuum, and purified by preparative-scale TLC to give the product. M+1: 443.

reactant | [3-(2-amino-propyl) -phenyl]-methanol | 1.8 mmol, 300 mg | NC(CC=1C=C(C=CC1)CO)C | C10H15NO
reactant | 2-(2-methanesulfinyl-pyrimidin-4-ylamino) -3-methyl-6-phenyl-3H-pyrimidin-4-one | 0.9 mmol, 300 mg | CS(=O)C1=NC=CC(=N1)NC1=NC(=CC(N1C)=O)C1=CC=CC=C1 | C16H15N5O2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | NMP | 8 mL | CN1CCCC1=O | C5H9NO
product | 2-{2-[2-(3-Hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-ylamino}-3-methyl-6-phenyl-3H-pyrimidin-4-one | OCC=1C=C(C=CC1)CC(C)NC1=NC=CC(=N1)NC1=NC(=CC(N1C)=O)C1=CC=CC=C1 | C25H26N6O2
